US04386073
4.48 g (9.5 mmoles) of Z-D-Glp-Leu-Pro-NH2 are dissolved in 200 ml of methanol, 0.9 g of a 10% palladium-on-carbon catalyst are added to the solution, and hydrogen is bubbled through the mixture for one hour. The catalyst is filtered off, the filtrate is evaporated, and the amorphous residue is triturated with ether. The resulting 3.07 g of crude product are dissolved in water, the solution is decolourized, filtered, and the clear filtrate is freeze-dried. 2.90 g (90.5%) of D-Glp-Leu-Pro-NH2 are obtained; Rf5 =0.40, [α]D25 =-23.6° (c=1%, in acetic acid).

reactant | Z-D-Glp-Leu-Pro-NH2 | 9.5 mmoles, 4.48 g | N1([C@H](CCC1=O)C(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OCC1=CC=CC=C1 | C24H32N4O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | D-Glp-Leu-Pro-NH2 | 2.90 g, 90.5% | N1[C@H](CCC1=O)C(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)N)CCC1 | C16H26N4O4
